US06001855
103 mg of ethyl (RS)-3-[[1-(2-guanidino-4-methyl-thiazole-5-carbonyl)-piperidine-3-carbonyl]-amino]-propionate are left to stand at RT in 2.1 ml of 25 percent hydrochloric acid for 6 hrs. The solution is evaporated and the residue is taken up in water and again evaporated. There are obtained 92 mg of (RS)-3-[[1-(2-guanidino-4-methyl-thiazole-5-carbonyl)-piperidine-3-carbonyl]-amino]-propionic acid hydrochloride (1:2) as a white foam, MS: 383 (M+H)+.

reactant | ethyl (RS)-3-[[1-(2-guanidino-4-methyl-thiazole-5-carbonyl)-piperidine-3-carbonyl]-amino]-propionate | 103 mg | N(C(=N)N)C=1SC(=C(N1)C)C(=O)N1CC(CCC1)C(=O)NCCC(=O)OCC | C17H26N6O4S
reactant | hydrochloric acid | 2.1 ml | Cl | ClH
product | (RS)-3-[[1-(2-guanidino-4-methyl-thiazole-5-carbonyl)-piperidine-3-carbonyl]-amino]-propionic acid hydrochloride | 92 mg | Cl.N(C(=N)N)C=1SC(=C(N1)C)C(=O)N1CC(CCC1)C(=O)NCCC(=O)O | InChI=1S/C15H22N6O4S.ClH/c1-8-11(26-15(19-8)20-14(16)17)13(25)21-6-2-3-9(7-21)12(24)18-5-4-10(22)23;/h9H,2-7H2,1H3,(H,18,24)(H,22,23)(H4,16,17,19,20);1H
